US05089621
To a solution of 1-p-toluenesulfonyl-3,4-bis(bromomethyl)-3-pyrroline (6.1 g) was dissolved in acetonitrile (70 ml), 40% methylamine aqueous solution (1.5 ml) and anhydrous potassium carbonate powder (16 g) were added and stirred for 2 hours at room temperature. The solid was filtered off and the filtrate was purified by silicagel column chromatography to yield 3-methyl-7-p-toluenesulfonyl-3,7-diazabicyclo[3.3.0]oct-1(5)-ene (0.82 g, yield 20%). 0.8 g of this compound and 0.8 g of phenol were refluxed in 48% hydrobromic acid (15 ml) for 5 hours. The reaction mixture was washed with chloroform (20 ml×3), decolorized with active charcoal. The solvent was distilled off and washed with ethanol-ethylether (1:1) to give the title compound (0.5 g, yield 60%).

reactant | 1-p-toluenesulfonyl-3,4-bis(bromomethyl)-3-pyrroline | 6.1 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC(=C(C1)CBr)CBr)C | C13H15Br2NO2S
reactant | methylamine | 1.5 ml | CN | CH5N
reactant | potassium carbonate | 16 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 3-methyl-7-p-toluenesulfonyl-3,7-diazabicyclo[3.3.0]oct-1(5)-ene | 0.82 g, yield 20% | CN1CC=2CN(CC2C1)S(=O)(=O)C1=CC=C(C=C1)C | C14H18N2O2S
